US06933299B1
3-(5-{4-[4-(3-Fluoro-benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoic acid
Prepared according to Procedure H utilizing ethyl 3-(5-{4-[4-(3-fluorobenzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoate (0.50 g) and aqueous sodium hydroxide (2M, 2 mL) in THF (6 mL) to afford the title compound (0.46 9). Electrospray MS m/z 516 (MH+).

reactant | ethyl 3-(5-{4-[4-(3-fluorobenzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoate | 0.50 g | FC=1C=C(COC2=C(C=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=CC(=O)OCC)C=C2)Cl)C=CC1 | C30H23ClFN3O4
reactant | sodium hydroxide | 2M, 2 mL | [OH-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-(5-{4-[4-(3-Fluoro-benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furyl)-2-propenoic acid | FC=1C=C(COC2=C(C=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=CC(=O)O)C=C2)Cl)C=CC1 | C28H19ClFN3O4
